US08466156B2
2.1. (E)-3-tributylstannanyl-prop-2-en-1-ol
To neat propargyl alcohol (5 ml) were added tributyltin hydride (29.2 ml) followed by AIBN (716 mg). The mixture was heated for 2.75 h at 80° C., cooled to RT and directly purified by CC (EA/Hept 5/95) to afford the desired compound (12.9 g).

reactant | propargyl alcohol | 5 ml | C(C#C)O | C3H4O
reactant | tributyltin hydride | 29.2 ml | C(CCC)[SnH](CCCC)CCCC
reactant | AIBN | 716 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | (E)-3-tributylstannanyl-prop-2-en-1-ol | 12.9 g | C(CCC)[Sn](/C=C/CO)(CCCC)CCCC | InChI=1S/3C4H9.C3H5O.Sn/c3*1-3-4-2;1-2-3-4;/h3*1,3-4H2,2H3;1-2,4H,3H2;
